* source YASIN2
R_R1         N00270 N00015  25  
R_R2         0 N00015  50  
R_R3         N00057 0  10  
R_R4         N00029 N00033  10  
R_R5         0 N00033  100  
V_V1         N00029 N00057 200Vdc
X_F1    N00029 N00270 N00015 N00033 SCHEMATIC1_F1 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 4.3
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
